US04533655
A solution of N2 -(tert-butyloxycarbonyl)-N2 -ethyl-N-(3-phenylpropyl)-D-alaninamide (4.28 g.) in hydrogen chloride-ethyl acetate (3.9N, 35 ml.) was stirred for twenty minutes at room temperature, then concentrated. The residue was stripped of volatiles under vacuum (0.1 mm.) at room temperature, affording N2 -ethyl-N-(3-phenylpropyl)-D-alaninamide (3.22 g.).

reactant | N2 (tert-butyloxycarbonyl)-N2 -ethyl-N-(3-phenylpropyl)-D-alaninamide | 4.28 g | N#N.C(C)(C)(C)OC(=O)N([C@H](C)C(=O)NCCCC1=CC=CC=C1)CC
solvent | hydrogen chloride-ethyl acetate | 3.9N, 35 ml | C(C)(=O)OCC.Cl
product | N2 ethyl-N-(3-phenylpropyl)-D-alaninamide | 3.22 g | N#N.C(C)N[C@H](C)C(=O)NCCCC1=CC=CC=C1 | InChI=1S/C14H22N2O.N2/c1-3-15-12(2)14(17)16-11-7-10-13-8-5-4-6-9-13;1-2/h4-6,8-9,12,15H,3,7,10-11H2,1-2H3,(H,16,17);/t12-;/m1./s1
